US05246948
Synthesis of 4-[3-(3,5-di-t-butyl-4-hydroxybenzoylamino)propylthio]pyridine
To a solution of 1.49 g (5.94 mmol) of 3,5-di-t-butyl-4-hydroxybenzoic acid and 889 mg (7.73 mmol) of N-hydroxysuccinimide in 60 ml of methylene chloride was added 1.38 g (7.13 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. Further 1.00 g (5.94 mmol) of 4-(3-aminopropylthio)pyridine was added and the mixture was stirred at rcom temperature for 8 hours. The reaction mixture was washed with water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 650 mg of the desired compound (27.3%, colorless powder), mp: 203.0°-204.0° C.

reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 5.94 mmol, 1.49 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | N-hydroxysuccinimide | 7.73 mmol, 889 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.13 mmol, 1.38 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(3-aminopropylthio)pyridine | 5.94 mmol, 1.00 g | NCCCSC1=CC=NC=C1 | C8H12N2S
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3,5-di-t-butyl-4-hydroxybenzoylamino)propylthio]pyridine | 650 mg, 27.3% | C(C)(C)(C)C=1C=C(C(=O)NCCCSC2=CC=NC=C2)C=C(C1O)C(C)(C)C | C23H32N2O2S
